*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X8L(-55to150[deg])/3.30e-02[uF]/50[V]
* Murata P/N :GCM155L8EH333KE07
* Property : C = 3.30e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155L8EH333KE07 Port1 Port2
C01 Port1 N01 3.08e-08
R01 Port1 N01 1.52e+09
L02 N01 N02 1.95e-10
R03 N02 N03 2.85e-02
C04 N03 N04 3.56e-06
R04 N03 N04 1.04e+03
C05 N04 N05 6.38e-06
R05 N04 N05 1.22e+02
C06 N05 N06 4.12e-06
R06 N05 N06 2.73e+01
C07 N06 N07 4.99e-06
R07 N06 N07 2.73e+00
C08 N07 N08 3.68e-06
R08 N07 N08 6.86e-01
C09 N08 N09 2.41e-06
R09 N08 N09 1.27e-01
C10 N09 N10 2.56e-06
R10 N09 N10 1.90e-02
L11 N10 N11 6.99e-11
R11 N10 N11 1.21e-01
C12 N11 N12 1.57e-07
L12 N11 N12 1.39e-11
R12 N11 N12 1.45e-02
C13 N12 N13 5.32e-08
L13 N12 N13 1.80e-11
R13 N12 N13 2.82e-02
C14 N13 N14 2.23e-11
L14 N13 N14 7.00e-11
R14 N13 N14 1.46e+00
C15 N14 Port2 1.84e-11
L15 N14 Port2 1.73e-11
R15 N14 Port2 2.36e+00
.ENDS GCM155L8EH333KE07
